US06965048B2
A solution of 17.24 g (60.4 mmol) of trans-4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexanecarboxylic acid was dissolved in 150 mL of dioxane, cooled to 10° C. and treated with 151 mL (604.1 mmol, 10 eq) of 4M HCl in dioxane, then warmed to RT and stirred for 3 h. The solution was evaporated to ca. 15 mL, precipitated with ˜100 mL of Et2O and cooled to 0° C. The solid precipitate was filtrated, washed with Et2O (×3) and dried under reduced pressure to yield 13.55 g (quantitative) of trans-4-(2-methylamino-ethyl)-cyclohexanecarboxylic acid·HCl, MS: 186 (MH+), MP: 212-214° C.

reactant | trans-4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexanecarboxylic acid | 60.4 mmol, 17.24 g | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)C(=O)O)C | C15H27NO4
reactant | HCl | 604.1 mmol, 4M, 151 mL, 10 eq | Cl | ClH
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | trans-4-(2-methylamino-ethyl)-cyclohexanecarboxylic acid·HCl | 13.55 g | CNCC[C@@H]1CC[C@H](CC1)C(=O)O.Cl | InChI=1S/C10H19NO2.ClH/c1-11-7-6-8-2-4-9(5-3-8)10(12)13;/h8-9,11H,2-7H2,1H3,(H,12,13);1H/t8-,9-;
